US08633173B2
7-{8-[5-Chloro-2-(2,2-difluoro-ethoxy)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino}-1,2,4,5-tetrahydro-3-benzazepine-3-carboxylic acid tert-butyl ester was prepared from 2-chloro-8-[5-chloro-2-(2,2-difluoro-ethoxy)-phenyl]-[1,2,4]-triazolo[1,5-a]pyridine (0.215 g, 625 mmol) and 7-amino-1,2,4,5-tetrahydro-3-benzazepine-3-carboxylic acid tert-butyl ester (0.245 g, 937 mmol) in a manner analogous to Example 311a and 311b to give product (0.117 g, 33%). 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.52 (s, 1H), 8.78 (d, 1H), 7.80 (s, 1H), 7.68 (d, 1H), 7.45 (m, 3H), 7.30 (m, 1H), 7.05 (m, 2H), 6.25 (br m, 1H), 4.35 (m, 2H), 3.45 (m, 4H), 2.82 (m, 4H), 1.41 (s, 9H). MS=571 (MH)+.

reactant | 2-chloro-8-[5-chloro-2-(2,2-difluoro-ethoxy)-phenyl]-[1,2,4]-triazolo[1,5-a]pyridine | 625 mmol, 0.215 g | ClC1=NN2C(C(=CC=C2)C2=C(C=CC(=C2)Cl)OCC(F)F)=N1 | C14H9Cl2F2N3O
reactant | 7-amino-1,2,4,5-tetrahydro-3-benzazepine-3-carboxylic acid tert-butyl ester | 937 mmol, 0.245 g | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C=CC(=C2)N | C15H22N2O2
product | 7-{8-[5-Chloro-2-(2,2-difluoro-ethoxy)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino}-1,2,4,5-tetrahydro-3-benzazepine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C=CC(=C2)NC2=NN1C(C(=CC=C1)C1=C(C=CC(=C1)Cl)OCC(F)F)=N2 | C29H30ClF2N5O3
